US07674791B2
A solution of 3-oxo-piperidine-1-carboxylic acid tert-butyl ester (112 mg, 0.56 mmol) in THF (1 mL) was added dropwise to a solution of ethynylmagnesium bromide (0.5 M, 2.2 mL) in THF (1 mL) at 0° C. and the resulting mixture was stirred at 0° C. for 4 hours. The reaction was quenched with saturated aqueous NH4Cl and extracted with ethyl acetate. The combined organic extracts were washed with water, brine, dried over anhydrous magnesium sulfate, and concentrated to afford 3-ethynyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (119 mg, 94%) as yellow oil. MS: m/z=226 amu (M++H).

reactant | 3-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.56 mmol, 112 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | ethynylmagnesium bromide | 0.5 M, 2.2 mL | C(#C)[Mg]Br
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-ethynyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 119 mg, 94% | C(C)(C)(C)OC(=O)N1CC(CCC1)(O)C#C | C12H19NO3
